Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cat bite
 
Major Surgical or Invasive Procedure:
Bedside Incision and drainage ___
 
History of Present Illness:
Ms. ___ is a ___ female with PMH of
hypertension, depression and chronic diarrhea who presents with
hand swelling after a cat bite. The patient reports her cat bit
her on ___ at about 1030 in the morning. She visited
urgent care that afternoon and was started on Augmentin. She 
took
two doses of antibiotics and noted that her hand continued to
increase in size with some drainage. She denies fevers or 
chills.
Denies shortness of breath- denies systemic symptoms of
infection. Given increase in swelling, she presented to the ED
where she was given IV antibiotics and transferred to ___ for
hand surgery evaluation.

While in the ED, the patient was seen by hand surgery and had an
I and D. From documentation, it seems there was not a 
significant
amount of pus.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Hypertension
Chronic Diarrhea
Menopause with associated mood symptoms

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
___ 1119 Temp: 97.9 PO BP: 144/82 HR: 64 RR: 18 O2
sat: 96% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted. Right hand in splint
wrapped. Full ROM of fingers. Sensation intact. No epitrochlear
lymphadenopathy.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Exam on discharge:
Vitals: 97.6 BP: 142/91 HR: 70   96 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted. Right hand with 4 puncture 
wounds without purulent drainage, some surrounding erythema. 
Minimal pain on palpation of side of hand. full ROM of fingers.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Hand xray:
IMPRESSION: 
Soft tissue swelling. No radiographic evidence of osteomyelitis.
No radiopaque foreign body.

Blood culture: NGTD

___ 6:37 am SWAB

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___:    NO GROWTH. 

Labs:
___ 05:36AM BLOOD WBC-5.9 RBC-3.90 Hgb-11.5 Hct-34.4 MCV-88 
MCH-29.5 MCHC-33.4 RDW-12.7 RDWSD-40.8 Plt ___
___ 05:36AM BLOOD Glucose-122* UreaN-14 Creat-0.4 Na-143 
K-3.9 Cl-103 HCO3-27 AnGap-13
___ 05:36AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ female with PMH ofhypertension who 
presented with hand cellulitis following cat bite.

#Cat bite
#Right hand cellulitis
Patient with cat bite two days prior to admission with rapid 
progression of infection despite treatment with Augmentin as 
outpatient. Hand surgery has evaluated and performed I and D in 
ED with packing of 4 puncture wounds. The patient was briefly on 
Zosyn and transitioned to IV Unasyn. Her hand was soaked twice 
daily in dilute betadine and packing change with significant 
improvement in erythema and edema. Her pain was well controlled 
on acetaminophen. The patient will be discharged home on 
Augmentin to complete a total 10 day course from I and D. She 
was instructed to continue BID soaks at home and to follow up 
with Dr. ___ in 1 week. 

#Hypertension
- continued home Lisinopril and HCTZ

#Depression/Mood symptoms
- Continued sertraline, PRN Ativan
- Brisdelle non-formulary, held during hospitalization and 
resumed on discharge.

#Chronic diarrhea
- Continued cholestyramine and imodium

Transitional issues:
- Discharged on PO Augmentin x 7 additional days
- advised to continue soaks, packing and volar splint until hand 
surgery follow up
HCP: Girlfriend :___
Code: Full- presumed, did not discuss
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 30 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Omeprazole 20 mg PO EVERY OTHER DAY 
4. Sertraline 50 mg PO QHS 
5. Cholestyramine 4 gm PO QHS 
6. LOPERamide 4 mg PO BID 
7. Brisdelle (PARoxetine mesylate(menop.sym)) 7.5 mg oral DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. LORazepam 0.5 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Take until ___  
3.  Brisdelle (PARoxetine mesylate(menop.sym)) 7.5 mg oral DAILY 
 
4.  Cholestyramine 4 gm PO QHS  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Lisinopril 30 mg PO DAILY  
7.  LOPERamide 4 mg PO BID  
8.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
9.  Omeprazole 20 mg PO EVERY OTHER DAY  
10.  Sertraline 50 mg PO QHS  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cat bite
Hand Skin and soft tissue infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted for an infection in your hand after 
your cat bite. You were seen by the hand surgery team and they 
drained fluid from the areas of the bite. You were treated with 
intravenous antibiotics and will be discharged on oral 
antibiotics to complete a 10 day course. You should stop this 
medication on ___.
Please follow up with your PCP and with hand surgery as noted 
below.

We wish you the best,
Your ___ Care team
 
Followup Instructions:
___